Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm good." 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is an ___ year old single woman, currently a freshman 
at ___, longstanding history of affective 
instability, reactive mood, chronic suicidal ideation with no 
prior history of attempts. previously diagnosed with bipolar 
disorder with unclear history of mania who presented to ___ 
with her college counselor with worsening depression, 
irritability with thought of overdosing on her lithium in the 
setting of medication noncompliance. 
.
On interview, patient reported worsening depression over the 
past ___ weeks in the setting of discontinuing her lithium, 
which she stopped due to nausea, vomiting, and tremors; she did 
not notify her psychiatrist of these side effects. Patient 
reported feeling irritable, angry, hopeless and out of control 
at times, stating, "I hate myself." Reported suicidal ideation 
with thoughts of overdosing on lithium but stated she refrains 
because this would mean she is weak and she is worried on her 
mother would take this. Endorsed anhedonia, feelings of 
hopelessness, guilt, fatigue, difficulties concentrating, 
increased sleep. 
. 
Patient reports feeling irritable, angry, even vengeful at 
times, and then feeling hopeless, out of control, "I hate 
myself". She reports thoughts of suicide, with a plan to 
overdose on her lithium pills, but is stopped because she 
worries that this would mean she is weak, and worries how her 
mother would take this. Patient reports sleeping more than 
usual, decreased appetite, and auditory hallucinations saying 
mean things about her. Patient reports that two weeks ago she 
took a needle and scratched and poked into her palm in an 
attempt to dull the pain.  
.
Currently the patient feels angry and frustrated about being 
brought into the unit, she states she just wants to go back to 
her dorm and sleep. She continues to endorse SI, but states she 
will not try anything while in the unit. Patient also endorses 
hearing 2 voices, whom she says are her consciousness, one 
telling her "everything is going to be ok", the other telling 
her to "give up because it doesn't matter". Patient denies 
paranoid or persecutory ideation, no ideas of reference, denies 
HI and visual hallucinations.  
 
Past Medical History:
Past psychiatric history:
- Diagnoses: bipolar disorder, diagnosed in ___ 
- Hospitalizations: none 
- SA/SIB: Patient reports history of chronic suicidal ideation
but denied attempts on my examination; per OMR has history of
overdose on Ibuprofen in ___ when she did not tell
anyone or seek medical attention. 
- Psychiatrist: Dr. ___ ___
- Therapist: ___ of ___ 
- Medication Trials: Remeron, Trileptal, propranolol, 
Wellbutrin,
Ativan. States all have been ineffective 
.
Past medical history:
Anemia 
Migraines 

 
Social History:
Personal and Social History: Patient was born and raised in 
___, the youngest of ___. Stated her parents 
separated when she was age ___ and she moved from ___ to the 
___ with her mother and siblings and her father went 
to ___ where he started his own family. On my examination,
reported her mother is "great... she spoils me but doesn't 
smother me and she cares a lot." Reported it was "fine" not 
growing up with a father, stating she had her godparents and 
mother supports. Per admission note, has older brother who 
suffered from behavioral issues during her childhood, with prior 
psychiatric hospitalizations that stressed the family. Patient 
reported her mother currently works as a visiting ___. 
Described her ___ year old sister as a strong support, reporting, 
"she's the exact opposite of me, outgoing and she stands up for 
me." Currently a freshman at ___, states she is
studying psychology but does not know what she wants to do with 
her life. Stated she has been missing class but professors are 
understanding; taking 15 credit hours and is unsure of course 
grades. Currently also works 17 hours per week at ___ 
___ and has for the past 7 months. States she enjoys the job. 
Identifies as ___, currently dating a ___ year old man who 
works at a ___; states the relationship is "good," denied 
abusive relationship. Denied history of legal issues or access 
to guns. Denies history of physical or sexual abuse but did 
endorse history of verbal abuse on admission. 
.
Substance use history:
- Alcohol: denies
- Illicits: denies 
- Tobacco: denies 

 
Family History:
Family psychiatric history:
- Diagnoses: brother with history of bipolar and prior 
psychiatric hospitalization. Reports she also has younger 
brother diagnosed with depression. 
- Suicides: Denied history of suicides on my examination, per
OMR, several completed suicides on maternal side. 
- Addictions: Denies

 
Physical Exam:
98.2 124/71 66 18 100%RA 
A/B: Appear stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, no psychomotor 
agitation or retardation noted
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 
 
Pertinent Results:
___ 12:16PM BLOOD WBC-6.6 RBC-4.15 Hgb-10.0* Hct-32.3* 
MCV-78* MCH-24.1* MCHC-31.0* RDW-17.5* RDWSD-49.6* Plt ___
___ 12:16PM BLOOD Neuts-59.4 ___ Monos-8.4 Eos-0.3* 
Baso-0.5 Im ___ AbsNeut-3.94 AbsLymp-2.07 AbsMono-0.56 
AbsEos-0.02* AbsBaso-0.03
___ 06:55AM BLOOD Glucose-76 UreaN-8 Creat-0.7 Na-138 K-4.0 
Cl-104 HCO3-22 AnGap-16
___ 01:20PM BLOOD ALT-9 AST-16 AlkPhos-44 TotBili-0.2
___ 01:20PM BLOOD Albumin-4.4 Iron-25* Cholest-185
___ 01:20PM BLOOD calTIBC-593* VitB12-211* Folate-18 
Ferritn-5.4* TRF-456*
___ 01:20PM BLOOD TSH-0.86
___ 06:55AM BLOOD Lithium-0.6#
___ 12:16PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:16PM BLOOD GreenHd-HOLD
___ 01:20PM BLOOD calTIBC-593* VitB12-211* Folate-18 
Ferritn-5.4* TRF-456*
___ 01:20PM BLOOD Albumin-4.4 Iron-25* Cholest-185
___ 01:20PM BLOOD Triglyc-65 HDL-69 CHOL/HD-2.7 LDLcalc-103
___ 01:20PM BLOOD TSH-0.86
___ 06:55AM BLOOD Lithium-0.6#
___ 12:16PM BLOOD Lithium-<0.1*
 
Brief Hospital Course:
This is an ___ year old single woman, currently a freshman at 
___, longstanding history of affective instability, 
reactive mood, chronic suicidal ideation with no prior history 
of attempts. Previously diagnosed with bipolar
disorder with unclear history of mania who presented to ___ 
with her college counselor with worsening depression, 
irritability with thought of overdosing on her lithium in the 
setting of medication noncompliance. 
.
Upon interview, patient reports longstanding history of 
affective dysregulation as noted above with periods of 
depression and elevated mood that appear to be reactive in 
nature. Ms. ___ reports prior benefit from lithium and 
psychotropic medications in the past with worsening of 
depression in the setting of noncompliance. Mental status 
examination notable for well groomed woman with good hygiene and 
grooming, labile and reactive mood and thought process that is 
notably linear, goal and future oriented.
.
Diagnostically, etiology of presentation is unclear and 
differential diagnosis includes primary mood disorder such as 
major depressive disorder vs. bipolar disorder, although there 
is little evidence to support an episode of mania. Given 
chronicity of symptoms with rapid fluctuations in mood, I am 
concerned for underlying character pathology, specifically, 
emerging cluster B traits. Cannot rule out underlying medical 
condition, although medical work up thus far is unremarkable. 
Nothing in history to suggest that substance use is 
contributing. 
.

#. Legal/Safety: Patient admitted on a ___, upon 
admission, signed a CV, which was accepted. Patient maintained 
her safety throughout her psychiatric hospitalization and did 
not require physical or chemical restraints. 
.
#. Mood disorder: with prior diagnosis of BPAD as noted above 
- Patient was compliant in attending some groups and maintained 
appropriate behaviors in the milieu. 
- Given prior good response in the past, patient was restarted 
on lithium CR 450 mg po qhs, which she tolerated well with no 
complaints of side effects. Lithium= 0.6 as noted above. 
- Given history of side effects of lithium, we discussed the 
risks and benefits of Lamictal for mood stability and depression 
with recommendation to uptitrate as an outpatient as tolerated. 
- For periods of affective dysregulation, discussed the risks 
and benefits of risperidone, we started risperidone at 0.5 mg po 
qhs. She tolerated this well with no complaints of side effects. 

- In the setting of reinitiation of medications and stabilizing 
environment of the milieu, patient reported rapid improvement in 
mood with consistent denial of suicidal ideation or thoughts of 
self harm. She requested discharge as soon as possible so she 
could return to work and school. Discussed importance of ongoing 
therapy and medication compliance as well as risks and benefits 
of decreasing stress, including reducing her work load at 
___, and patient was amenable to considering this. 
Of note, recommended referral to partial program, which she 
declined at this time
- Attempted to contact the patient's outpatient 
psychopharmacologist for additional collateral and treatment 
recommendations-- left voicemails asking for return call. 
- Prior to discharge, a family meeting was held with the 
patient's older sister (mother could not make meeting due to 
schedule) to discuss hospital course. Family felt comfortable 
with discharge home with follow up appointments 
.
#. Anemia: Microcytic anemia. Hg/Hct 10.0/32.3. Iron 25, TIBC 
593, Ferritin 5.4. Pt reports chronic anemia. 
- Patient was started on iron supplementation
. 
#. B12 deficiency. Vitamin B12 211 on labs. 
- Patient was started on cyanocobalamin 1000 mcg po qd with 
recommendation to follow up with her PCP for further work up and 
treatment 

RISK ASSESSMENT: Patient is at chronically elevated risk for 
suicide with risk factors that include chronic suicidal 
ideation, affective instability, history of some impulsivity, 
young age, recent psychiatric hospitalization. However, she also 
has a number of protective factors-- she is intelligent, has 
demonstrated good response to medications, and has a supportive 
family. At time of discharge, she was reporting improved mood, 
improvement in mood swings, and was consistently denying 
suicidal ideation or thoughts of self harm with thought process 
that was notably linear, goal and future oriented. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO DAILY 
2. Lithium Carbonate 450 mg PO BID 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY  
2.  Ferrous Sulfate 325 mg PO DAILY  
3.  LamoTRIgine 25 mg PO QHS  
4.  RisperiDONE 0.5 mg PO QHS  
5.  Lithium Carbonate CR (Eskalith) 450 mg PO QHS  
6.  LORazepam 1 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder 

 
Discharge Condition:
VS: T: 98.3 BP:105/63   HR:76   resp: 16   O2 sat: 97% rm air
Neurological:
 *station and gait: no ataxia, normal gait
 *tone and strength: normal bulk tone, moves all extremities 
MSE: 
Appearance: thin female,in casual clothing, glasses, good 
hygiene/grooming
Behavior: calm, cooperative, no notable psychomotor agitation
Speech: normal rate/tone/prosody;, no slurring/dysarthria
Mood:   'really happy'
Affect: euthymic, full range, congruent 
Thought Process: linear, logical, goal oriented 
Thought Content: no prominent delusions/paranoia
Perceptions: denies Auditory/Visual/Somatic hallucinations
Suicidality/Homicidality: denies SI/HI
Insight/Judgment: improved 

 
Discharge Instructions:
You were hospitalized at ___ for depression and suicidal 
thoughts.  We adjusted your medications, and you are now ready 
for discharge.

- Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- Please continue all medications as directed.
- Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
- Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___